data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
495,541,[CH3:13][C:14](=[O:15])[C-:16]([CH3:17])[NH+:18]=[CH:19][C:20]#[N:21].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:19]([C:20]#[N:21])[NH:18][C:16]2([C:14]([CH3:13])=[O:15])[CH3:17],water,298.15,17.383509185534024,-18.2236013158716
422,460,[CH3:1][O:2][C:3]([C:4]#[N:5])=[C:6]([O:7][CH3:8])[O:9][CH3:10].[N:11]#[C:12][N-:13][O+:14]=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]([O:7][CH3:8])([O:9][CH3:10])[N:13]([C:12]#[N:11])[O:14][CH:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,9.46361501718482,-20.097448899997392
130,146,[CH3:1][C:2]#[C:3][CH3:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([C:10]([CH3:11])=[O:12])[N+:13]([CH3:14])=[CH:15][C:16]#[N:17]>>[CH3:1][C:2]1=[C:3]([CH3:4])[C:9]([C:7]([O:6][CH3:5])=[O:8])([C:10]([CH3:11])=[O:12])[N:13]([CH3:14])[CH:15]1[C:16]#[N:17],water,298.15,24.542548783637148,-43.05329320657981
653,713,[CH3:11][C-:12]([CH3:13])[NH+:14]=[C:15]([C:16]#[N:17])[C:18]#[N:19].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:12]([CH3:11])([CH3:13])[NH:14][C:15]2([C:16]#[N:17])[C:18]#[N:19],water,298.15,15.097418328927462,-17.783589947323392
3376,3835,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[O:7]=[c:8]1[n-:9][o+:10][c:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[o:18]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]2([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[O:10][N:9]1[C:8](=[O:7])[O:18]2,water,298.15,28.16646830971,6.277116007095143
2858,3176,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([C:10](=[O:11])[NH:12][CH3:13])([C:14](=[O:15])[NH:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][O:23][C:24](=[O:25])[C:26](=[O+:27][C-:28]([CH3:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[C:36](=[O:37])[O:38][CH3:39]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([C:10](=[O:11])[NH:12][CH3:13])([C:14](=[O:15])[NH:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:28]([CH3:29])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[O:27][C:26]2([C:24]([O:23][CH3:22])=[O:25])[C:36](=[O:37])[O:38][CH3:39],water,298.15,25.074927391465767,-36.75890448260355
867,940,[CH3:13][O:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19]([CH3:20])[c:21](=[O:22])[o:23]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([CH3:6])=[O:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:19]1([CH3:20])[NH:18][C:17]2([C:15]([O:14][CH3:13])=[O:16])[O:23][C:21]1=[O:22],water,298.15,30.26748434458425,8.803726236614981
5061,5749,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([C:16]([CH3:17])=[O:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]([CH3:17])=[O:18])[N:19]([CH3:20])[C:21]2([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,57.12875508071559,11.286257129285648
3360,3815,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[NH+:13][C-:14]([C:15]#[N:16])[C:17]#[N:18]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]([C:8]([CH3:7])=[O:9])([C:11]#[N:12])[NH:13][C:14]1([C:15]#[N:16])[C:17]#[N:18],water,298.15,24.8468371348394,-4.3375784889907605
3476,3958,[CH2:10]=[O+:11][C-:12]([C:13]#[N:14])[C:15](=[O:16])[NH:17][CH3:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH2:10][O:11][C:12]1([C:13]#[N:14])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,6.784820328785808,-44.86948969228364
4007,4583,[CH3:9][NH:10][C:11](=[O:12])[C:13](=[NH+:14][CH-:15][C:16]#[N:17])[C:18](=[O:19])[NH:20][CH3:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:15]([C:16]#[N:17])[NH:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:18](=[O:19])[NH:20][CH3:21],water,298.15,14.809279847976676,-25.52241382778789
4238,4848,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[C-:20]([CH3:21])[CH3:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]#[N:17])[N:18]([CH3:19])[C:20]2([CH3:21])[CH3:22],water,298.15,48.61055363818886,6.559201262872474
